US04082751
Preparation 57: 1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carbonitrile
1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxamide (13.6 g., 0.0476 mole) was added to a stirred, cold solution of pyridine (18.9 g., 0.24 mole) in phosphorus oxychloride (136 ml.), and the mixture heated under reflux for 15 minutes. The mixture was evaporated to dryness and the residue added to a mixture of ice and mthylene chloride. The mixture was neutralized with sodium bicarbonate. The methylene chloride layer was dried (sodium sulfate) and concentrated. To the residual oil was added 1N sodium hydroxide (15 ml.) and tetrahydrofuran (10 ml.). The mixture was allowed to stand at 25° for 18 hours. The mixture was washed with diethyl ether, filtered, and the filtrate acidified with acetic acid. The precipitate was recrystallized from toluene to give the title compound (7.6 g., 59.6%), m.p. 188°-190°. Two recrystallizations from ethyl acetate gave analytical material, m.p. 187°-189°.

reactant | 1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxamide | 0.0476 mole, 13.6 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC1CC1)C(=O)N | C15H15N3O3
reactant | pyridine | 0.24 mole, 18.9 g | N1=CC=CC=C1 | C5H5N
solvent | phosphorus oxychloride | 136 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,6-Dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carbonitrile | 7.6 g, 59.6% | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC1CC1)C#N | C15H13N3O2
